US05444080
A solution of methyl 2-[1-{(2-chlorophenyl)methyl}-2-propylthio-1H-imidazol-5-yl]acetate (2.1 g, 6.2 mmol) in dry tetrahydrofuran (150 mL) was cooled to -78° C. for 1.5 hours and at ambient temperature for 1 8 hours. Methanol was added followed by 5% aqueous acetic acid. The mixture was concentrated in vacuo, the residue was extracted with methylene chloride, and the organic extract was washed with 5% aqueous sodium carbonate solution, dried, and concentrated to give 2.33 g of crude product. This was chromatographed over silica gel with ethyl acetate to give 1.6 g (84%) of 1-[(2-chlorophenyl)methyl]-5-(2-hydroxy)ethyl-2-propylthio-1H-imidazole as an oil.

reactant | methyl 2-[1-{(2-chlorophenyl)methyl}-2-propylthio-1H-imidazol-5-yl]acetate | 6.2 mmol, 2.1 g | ClC1=C(C=CC=C1)CN1C(=NC=C1CC(=O)OC)SCCC | C16H19ClN2O2S
reactant | Methanol | CO | CH4O
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | tetrahydrofuran | 150 mL | O1CCCC1 | C4H8O
product | 1-[(2-chlorophenyl)methyl]-5-(2-hydroxy)ethyl-2-propylthio-1H-imidazole | 1.6 g, 84% | ClC1=C(C=CC=C1)CN1C(=NC=C1CCO)SCCC | C15H19ClN2OS
